US06221865B1
N-t-Butoxycarbonyl-2(S)-phenoxymethylpyrrolidine
Following the procedure of example 1115 A, N-t-butoxycarbonyl-2-hydroxymethylpyrrolidine (0.80 g, 4.00 mmol) and phenol (1.13 g, 12.00 mmol) provided 0.99 g (89%) of the title compound. MS (DCI, NH3): 278 (MH+).

reactant | N-t-butoxycarbonyl-2-hydroxymethylpyrrolidine | 4.00 mmol, 0.80 g | C(C)(C)(C)OC(=O)N1C(CCC1)CO | C10H19NO3
reactant | phenol | 12.00 mmol, 1.13 g | C1(=CC=CC=C1)O | C6H6O
product | N-t-Butoxycarbonyl-2(S)-phenoxymethylpyrrolidine | 0.99 g, 89% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=CC=CC=C1 | C16H23NO3
